US04178449
3-(Methoxymethyl)-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]-pyrimidine
A suspension of 1.35 g. of 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxaldehyde in 90 ml. of absolute methanol is treated with 0.175 g. of sodium borohydride. After stirring for 2 hours at room temperature, excess 1 N aqueous hydrochloric acid is added and the mixture with the methanol is concentrated under reduced pressure. The solid that separates is dissolved in methylene chloride and this solution is washed with a saturated sodium bicarbonate solution and then dried (sodium sulfate). Addition of hexane to this refluxing solution causes the desired compound to crystallize, m.p. 114°-116° C.

reactant | 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxaldehyde | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C=O)(F)F | C14H8F3N3O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | methanol | CO | CH4O
product | 3-(Methoxymethyl)-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]-pyrimidine | COCC=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C15H12F3N3O
